US07834035B2
61(B) 4-Methyl-piperazine-1,3-dicarboxylic acid 1-tert-butyl ester
The crude piperazine-1,3-dicarboxylic acid-1-tert-butyl ester (4.92 mmol), prepared as described in 62(A), was suspended in dry acetonitrile (30 mL) under nitrogen atmosphere and formaldehyde (37% wt. aqueous solution, 367 mL, 4.92 mmol) and Na(OAc)3BH (2.3 g, 10.82 mmol) were added. The resulting mixture was stirred at R.T. for 3 h, then a saturated aqueous solution of NaHCO3 was slowly added until the pH was adjusted to 7. The mixture was concentrated to dryness under reduced pressure to give a yellow solid that was used without further purification for the next step.

reactant | piperazine-1,3-dicarboxylic acid-1-tert-butyl ester | 4.92 mmol | C(C)(C)(C)OC(=O)N1CC(NCC1)C(=O)O | C10H18N2O4
reactant | formaldehyde | 4.92 mmol, 367 mL | C=O | CH2O
reactant | Na(OAc)3BH | 10.82 mmol, 2.3 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 4-Methyl-piperazine-1,3-dicarboxylic acid 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(N(CC1)C)C(=O)O | C11H20N2O4
